* C:\Users\sirle\OneDrive\Documentos\PBLE03\circuits\circuit_one.asc
XU1 N002 0 Vcc 0 N001 LM358
XU2 Vl 0 Vcc LM7805
VL Vl 0 24V
RL1 0 Io 110
R2 0 Io 16k
R1 N002 Io 1k
RIN N002 +V 2k
Q1 Vcc N001 0 0 NPN
V1 +V 0 5v
.model NPN NPN
.model PNP PNP
.lib C:\Users\sirle\AppData\Local\LTspice\lib\cmp\standard.bjt
.dc V1 0 5 0.1
.lib LM358.MOD
.lib regulators.lib
.backanno
.end
